US09227948B2
Preparation of ethyl 2-(6-(ethoxymethoxy)-7-methylbenzo[d][1,3]dioxol-4-yl)-2-hydroxyacetate
By following Example 9 procedure, 0.19 g of ethyl 2-(2,3-dihydroxy-5-(ethoxymethoxy)-4-methylphenyl)-2-hydroxyacetate is reacted with 1.0 g of bromochloromethane and 0.65 g of cesium carbonate in DMF medium to get 0.086 g of title compound as syrup. IR (neat): 3481, 2978, 2928, 1739, 1492, 1435, 1397, 1365, 1255, 1209, 1117, 1058, 984, 936, 847, and 718 cm−1. 1H-NMR (CDCl3, 400 MHz): δ 6.51 (s, 1H, Ar. H), 5.96 (d, J=1.2 Hz, 1H, OCH2O), 5.92 (d, J=1.2 Hz, 1H, OCH2O), 5.17 (br. s., exch. with D2O, 1H, OH), 5.15 (d, J=1.6 Hz, 2H, ArOCH2O), 4.19-4.30 (m, 2H, OCH2OCH2CH3), 3.72 (q, J=6.8 Hz, 2H, COOCH2CH3), 2.10 (s, 3H, ArCH3), 1.25 (t, J=7.2 Hz, 3H, OCH2CH3), 1.23 (t, J=7.2 Hz, 3H, OCH2CH3). 13C NMR (CDCl3, 100 MHz): δ 173.04 (CO), 151.26 (C-6), 146.70 (C-1a), 139.58 (C-3a), 116.38 (C-4), 110.94 (C-7), 105.55 (C-5), 101.30 (C-2), 94.43 (OCH2O), 68.83 (CHOH), 64.29 (OCH2CH3), 62.17 (OCH2CH3), 15.09 (OCH2CH3), 14.04 (OCH2CH3), 8.96 (ArCH3)

reactant | ethyl 2-(2,3-dihydroxy-5-(ethoxymethoxy)-4-methylphenyl)-2-hydroxyacetate | 0.19 g | OC1=C(C=C(C(=C1O)C)OCOCC)C(C(=O)OCC)O | C14H20O7
reactant | bromochloromethane | 1.0 g | BrCCl | CH2BrCl
reactant | cesium carbonate | 0.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 2-(6-(ethoxymethoxy)-7-methylbenzo[d][1,3]dioxol-4-yl)-2-hydroxyacetate | 0.086 g | C(C)OCOC=1C=C(C2=C(OCO2)C1C)C(C(=O)OCC)O | C15H20O7
